US07307094B2
N-(1-Methylpiperidin-4-yl)-2-phenylbenzoxazole-7-carboxamide was prepared from 2-phenylbenzoxazole-7-carboxylic acid and 4-amino-1-methylpiperidine using the method outlined in Step C of Example 7. This compound was obtained in 58% yield and obtained as a white solid: mp 209-210° C.; 1H NMR (300 MHz, CDCl3) δ 8.22 (m, 1H), 8.21 (dd, J=5.7, 1.8 Hz, 1H), 8.10 (dd, J=8.1, 0.9 Hz, 1H), 7.91 (dd, J=9.9, 1.2 Hz, 1H), 7.64-7.54 (m, 3H), 7.48 (t, J=7.8, 1H), 4.26-4.17 (m, 1H), 2.93 (d, J=11.4 Hz, 2H), 2.46 (s, 3H), 2.30 (t, J=11.1 Hz, 2H), 2.22-2.17 (m, 2H), 1.85-1.73 (m, 2H); MS (ESI) m/z 336 [M+H]+

reactant | 2-phenylbenzoxazole-7-carboxylic acid | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=C2C(=O)O | C14H9NO3
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
product | N-(1-Methylpiperidin-4-yl)-2-phenylbenzoxazole-7-carboxamide | 58% yield | CN1CCC(CC1)NC(=O)C1=CC=CC=2N=C(OC21)C2=CC=CC=C2 | C20H21N3O2
